US07105659B2
PREPARATION OF 2-MERCAPTOBENZOTHIAZOLYL (Z)-2-(2-AMINO-4-THIAZOLYL)-2-ACETYLOXYIMINOACETATE (O-ACETYL THIOESTER)
55 g of (Z)-2-(2-amino-4-thiazolyl)-2-acetyloxyiminoacetic acid (0.240 mol, moisture content: 0.49% w/w) was added to 825 ml of methylene dichloride at 20° C. Cooled the reaction mass to 15–20° C. To this mixture, 111.6 g of bis(benzothiazol-2-yl)disulphide (0.336 mol) and 91.2 g of triphenylphospine (0.348 mol) were added at 10–15° C. To this reaction mixture, 34 g of triethylamine (0.336 mol) was added at 10–15° C. during a period of 5–10 min. Maintained the reaction mass temperature at 10–30° C. till starting material is ≦2% by qualitative HPLC analysis (˜1 h). Cooled the reaction mixture to 5–10° C. and filtered the precipitated product. Washed with 300 ml of methylene dichloride at 5–10° C. Dried the product at 35–40° C. under reduced pressure till LOD≦1% w/w. 74 g of product was isolated which showed greater than 94% purity by HPLC with a melting point of 143–145° C.

reactant | (Z)-2-(2-amino-4-thiazolyl)-2-acetyloxyiminoacetic acid | 0.240 mol, 55 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)=O | C7H7N3O4S
reactant | bis(benzothiazol-2-yl)disulphide | 0.336 mol, 111.6 g | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
reactant | triphenylphospine | 0.348 mol, 91.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.336 mol, 34 g | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 825 ml | C(Cl)Cl | CH2Cl2
product | 2-MERCAPTOBENZOTHIAZOLYL (Z)-2-(2-AMINO-4-THIAZOLYL)-2-ACETYLOXYIMINOACETATE | 74 g | NC=1SC=C(N1)/C(/C(=O)OC1=CC=CC2=C1N=C(S2)S)=N/OC(C)=O | C14H10N4O4S3
